Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
hydrocodone
 
Attending: ___
 
Chief Complaint:
Pleuritic Chest Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ HIV/HBV, neuroendocrine rectal carcinoma, metastatic,
currently on C2D18 FOLFIRI, sent from clinic for evaluation of
sudden onset chest pain. She states she's had similar pain in 
the
past, which she was admitted recently and discharged on ___
for. The pain improved on that hospitlization and was unclear
etiology but she was found to have h.pylori and was started on
triple therapy. She was improving at home and yesterday, ___,
she was en route to clinic when the pain came back on again, but
this time was constant, severe, and dramatically pleuritic. The
pain is localized underneath the left breast fold, worse w/
movement, palpation, deep breathing. She did not feel febrile
until she arrived to the ED. She had dyspnea due to the 
pleurisy.

 
 In the ED, initial vitals: T100.7, Tmax 101.6, HR 112, BP
142/90, RR 20, O2 99% RA  
 - Exam notable for :  
 Bilateral breath sounds, tachycardic to the 120s, S1-S2  
 Port in place in the right chest wall, surrounding skin appears
normal  
 Abdomen tender to palpation in the left upper quadrant  
 - Labs were notable for:  
 Na 139, K, 4.5, HCO3 105, Cl 21, BUN 9, Cr 0.8, glucose 92  
 Ca 8.8, Mg 2.4, P 2.3  
 ALT 39, AST 40, AP 116, Tbili 0.3  
 WBC 10.6, HGB 9.5, HCT 30.2, Platelets 177  
 Trop <0.01 x2  
 Lactate 2.1-> 1.4  
 VBG: pH 7.37, pCO2 40, pO2 44, HCO3 44  

- Patient was given:  
 IV Morphine (18mg total)  
 Oxycodone 5mg  
 1L NS x2  
 Zofran 4mg  
 Cefepime  
 Vancomycin  
 Aspirin 324  
 Bactrim DS  
 Lovenox 60mg BID  
 Ranitidine 150mg  
 Truvada  
 - Decision was made to admit to ___ for monitoring of fever 
and
chest pain.  

Of note patient was recently admitted (___) and
(___) for chronic epigastric abdominal pain and feeling of
food stuck. Etiology of pain was not clearly identified. Barium
swallow was unremarkable. She was found to have H. pylori and 
was
started on triple therapy 

REVIEW OF SYSTEMS:
10 point ROS reviewed in detail and negative except for what is
mentioned above in HPI

 
Past Medical History:
The patient is a ___ woman with previously treated 
High-grade neuroendocrine tumor of the rectum in ___ 
treated in ___.

___ a mass that was found in her rectum/anus.  She states 

she initially presented with a hemorrhoid and constipation and 
the mass was found on exam.  She was diagnosed ___ and 
treated with carboplatin/etoposide through ___ with complete 
resolution. Patient had local recurrence in ___ and was 
treated with topotecan for 3 cycles followed by radiation 
therapy from ___. She received an additional cycle of 

topotecan on ___. PET/CT on ___ showed new liver mets and 
presacral soft tissue mass. She was then started on CAV for 2 
cycles (___).  She states that she did not have 

any follow-up imaging after that point.

She left ___ and did not have follow up with any oncologic 
providers since. Her port remained in place.

In ___ she presented to ___. She 
underwent CT scan there where she was found to have multiple 
liver lesions. She underwent biopsy which per discharge 
summaries at ___ states the findings were consistent with "small 

cell carcinoma" 

She was experiencing new lower abdominal, back and sacral pain 
with radiculopathy down the left leg and presented to ___ 
___ for the symptoms and an MRI was obtained which showed a 

5.1 x 3.4 x 3.4 cm left presacral mass at S1 and an S2.  She was 

prescribed oxycodone and hydromorphone q 4 hours and then sent 
to twice daily MC for evaluation.

She was admitted from ___ - ___ with new PE and 
liver metastasis which were biopsy confirmed as high-grade 
neuroendocrine carcinoma.

She was treated with carboplatin and etoposide on ___ with a 
dose of Neupogen on ___. Due to chronic HIV/HPV she was 
started on Dolutegravr, Truvada, Entecavir per ID. Radiation 
oncology evaluated her and due to her prior radiation could not 
safely implement sacral radiation.

-___ C2D1 Carboplatin 4AUC and Etoposide 80  mg/m2
-___: Stopped Carboplatin and Etoposide due to tumor 
progression. 
-___: Started on FOLFIRI chemotherapy, C1D1.
-___: Missed C1D15 of FOLFIRI due to cough and URI.
-___: C2D1 FOLFIRI with neulasta support
 
PAST MEDICAL HISTORY: 
- Neuroendocrine carcinoma of rectum
- PE diagnosed in ___, on Lovenox
- GERD
- HIV ___ years
- HBV
- s/p C-section
- s/p hernia repair
 
Social History:
___
Family History:
No known family history of cancer. Mother still alive, 5
siblings. Father died in ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
VS: 98.3 PO 107 / 54 L Sitting 88 20 100 RA
General:  NAD, Resting in bed in moderate distress from pain
HEENT:  MMM, no OP lesions
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  BS+, soft, diffusely tender w/o rebound or gaurding, 
points
to the left breast fold as the point of maximal pain which is
TTP. there is hyperpigementation above the rib but symmetric w/
the right breast fold 
LIMBS: WWP, no ___, no tremors
SKIN:  No rashes on the extremities
NEURO:  Grossly normal

DISCHARGE PHYSICAL EXAM:
VS:98.4 PO |88 / 60| 85| 18| 100 RA  
Gen: Appears comfortable, wearing nightgown, lying in bed.
Eyes: Anicteric sclera, conjunctiva non-injected
ENT: moist oral mucosa, no lesions
CV: Regular rate and rhythm, normal S1 and S2, no murmurs, rubs
or gallops. 
Chest: She has focal tenderness to palpation over her L rib 
under
her breast. 
PULM: Clear to auscultation bilaterally
ABD:  Normoactive bowel sounds, soft, nontender to palpation 
LIMBS: Lidocaine patch on L gluteus. Nontender to palpation. 
WWP,
no ___, no tremors
SKIN:  No rashes on the extremities
NEURO: CN II-XII grossly intact, strength ___ in bilateral ___

 
Pertinent Results:
ADMISSION LABS:
___ 05:35AM BLOOD WBC-6.2 RBC-2.85* Hgb-9.4* Hct-29.6* 
MCV-104* MCH-33.0* MCHC-31.8* RDW-18.0* RDWSD-69.0* Plt ___
___ 05:08AM BLOOD Neuts-73.4* Lymphs-9.8* Monos-13.8* 
Eos-0.8* Baso-0.5 Im ___ AbsNeut-7.19* AbsLymp-0.96* 
AbsMono-1.35* AbsEos-0.08 AbsBaso-0.05
___ 10:05AM BLOOD AbsNeut-6.38*
___ 10:05AM BLOOD WBC-8.4 RBC-3.30* Hgb-10.9* Hct-34.6 
MCV-105* MCH-33.0* MCHC-31.5* RDW-19.0* RDWSD-74.0* Plt ___
___ 10:05AM BLOOD Plt ___
___ 10:05AM BLOOD UreaN-8 Creat-1.1 Na-137 K-5.0 Cl-99 
HCO3-25 AnGap-13
___ 10:05AM BLOOD ALT-53* AST-55* AlkPhos-142* TotBili-0.4
___ 05:32PM BLOOD cTropnT-<0.01
___ 10:40PM BLOOD cTropnT-<0.01
___ 05:08AM BLOOD cTropnT-<0.01
___ 05:32PM BLOOD Lipase-8
___ 10:05AM BLOOD Albumin-4.7 Calcium-9.9 Phos-3.0 Mg-2.5
___ 10:05AM BLOOD TSH-0.97
___ 05:56PM BLOOD ___ Temp-38.6 pO2-44* pCO2-40 
pH-7.37 calTCO2-24 Base XS--1 Intubat-NOT INTUBA
___ 05:58PM BLOOD Lactate-2.1*

STUDIES/IMAGING:
- CTA Torso (___): CHEST: HEART AND VASCULATURE: Pulmonary 
vasculature is well opacified to the subsegmental level without 
filling defect to indicate a pulmonary embolus. The thoracic 
aorta is normal in caliber without evidence of dissection or 
intramural hematoma. The heart, pericardium, and great vessels 
are within normal limits. No pericardial effusion is seen. 
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar lymphadenopathy is present. No mediastinal mass. PLEURAL 
SPACES: No pleural effusion or pneumothorax. LUNGS/AIRWAYS: 
There is bilateral dependent atelectasis. No focal consolidation 
to suggest pneumonia. Left upper lobe scarring. The airways are 
patent to the level of the segmental bronchi bilaterally. BASE 
OF NECK: Visualized portions of the base of the neck show no 
abnormality. ABDOMEN: HEPATOBILIARY: Again demonstrated are 
innumerable hypoattenuating lesions throughout the liver with 
necrotic centers measuring up to 7.7 cm in the left lobe and 7.3 
cm in the right lobe, overall similar to ___. There 
is no evidence of intrahepatic or extrahepatic biliary 
dilatation. The gallbladder is within normal limits. PANCREAS: 
The pancreas is atrophic without focal lesion or pancreatic 
ductal dilatation. There is no peripancreatic stranding. SPLEEN: 
The spleen shows normal size and attenuation throughout, without 
evidence of focal lesions. ADRENALS: The right and left adrenal 
glands are normal in size and shape. URINARY: The kidneys are of 
normal and symmetric size with normal nephrogram. There is no 
evidence of focal renal lesions or hydronephrosis. There is no 
perinephric abnormality. GASTROINTESTINAL: The stomach is 
unremarkable. The small and large bowel loops demonstrate no 
obstruction. The colon and rectum are within normal limits. The 
appendix is not visualized. There is no free intraperitoneal 
fluid or free air. PELVIS: The urinary bladder and distal 
ureters are unremarkable. There is no free fluid in the pelvis. 
The 3.5 cm presacral soft tissue mass is grossly stable in size 
compared to ___ REPRODUCTIVE ORGANS: The reproductive 
organs are unremarkable. Again seen is reflux of contrast 
material into the left gonadal vein with prominent parauterine 
veins, unchanged compared to prior.. LYMPH NODES: Upper 
abdominal lymphadenopathy measuring up to 1.4 cm current series 
2, image 123) is unchanged. No mesenteric lymphadenopathy. There 
is no pelvic or inguinal lymphadenopathy. VASCULAR: There is no 
abdominal aortic aneurysm. No atherosclerotic disease is noted. 
BONES AND SOFT TISSUES: There is no evidence of worrisome 
osseous lesions or acute fracture. The abdominal and pelvic wall 
is within normal limits. IMPRESSION: 1. No pulmonary embolism or 
acute aortic abnormalities. 2. Unchanged innumerable hepatic 
metastatic disease and abdominal lymphadenopathy. Grossly stable 
3.5 cm presacral mass.

- MRI PELVIS/HIP (___) Re-demonstrated left presacral mass not 
significantly changed as detailed above.  This invades through 
the left S1, S2 and probably S3 neural foramina and involves the 
S2 and S3 vertebral bodies

DISCHARGE LABS:
___ 05:54AM BLOOD WBC-5.2# RBC-2.72* Hgb-9.0* Hct-28.2* 
MCV-104* MCH-33.1* MCHC-31.9* RDW-17.7* RDWSD-67.7* Plt ___
___ 05:54AM BLOOD Neuts-81.8* Lymphs-13.5* Monos-3.7* 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-4.26 AbsLymp-0.70* 
AbsMono-0.19* AbsEos-0.01* AbsBaso-0.01
___ 05:54AM BLOOD Glucose-75 UreaN-9 Creat-0.7 Na-141 K-4.9 
Cl-105 HCO3-25 AnGap-11
___ 05:54AM BLOOD ALT-102* AST-100* LD(LDH)-296* 
AlkPhos-107* TotBili-0.___ w/ HIV/HBV, neuroendocrine rectal carcinoma, metastatic, 
currently on C2D18 FOLFIRI who was admitted with pleuritic chest 

pain, acute on chronic hip pain, and an isolated fever. 

# Acute on Chronic L gluteal Pain: Patient has chronic left hip 
and 
lower back pain with radiation down the left leg. This is been 
previously attributed to her neuroendocrine sacral mass. Given 
her elevated chromogranin MR imaging was pursued for evaluation 
of her pain symptoms which showed stable disease. Long 
acting opioids were up-titrated while in house and treated with 
PRN. 

# Pleuritic chest pain: Patient describes pain at left 
anterolateral ribs. Precipitated by torso twisting, direct 
palpation, and coughing, was sudden onset driving but different 
than her prior epigastric pain from last admission. PE ruled 
out by CTA in the ED, EKG is nonischemic, and serial troponins 
were negative. Pain is reproducible on exam that was thought to 
be due to musculoskeletal in origin. By the time patient arrived 
on floor she was able to breathe normally without having any 
pain symptoms with coughing and deep inhalation as well as 
twisting. Treated with analgesia including Toradol for suspected 
MSK origin.

# Fever: Patient did not have any fevers prehospital, but did 
have a temperature of 101.5 in the emergency department. Septic 
eval was negative, she did not have any further temperatures, 
had no leukocytosis, and so antibiotics were discontinued when 
she 
arrived on the floor. He did not have any focal features and 
did not have any recurrent temperatures.

# Metastatic Neuro-Endocrine Tumor: C2D1 F___ was ___. CT 
imaging showed unchanged innumerable hematic mets and abdominal 
adenopathy. Chromogranin level on admission was 668 - her 
highest recorded value despite recent chemo. MRI of the hip and 
pelvis showed stable disaease. Dr ___ is her outpatient 
oncologist and wanted to continue her chemotherapy while 
hospitalized. She was started on C2D1 FOLFIRI ___. 

# Orthostatic Hypotension: 
She experienced lower blood pressure while receiving 
chemotherapy. While this is not commonly seen with this regimen, 
patient reports that this has happened with
previous chemotherapy. She is asymptomatic with normal mentation 
and
significant urine output. ___ be secondary to nausea and poor PO
intake. Etiology unclear, may be chemotherapy affect or 
component of adrenal insufficiency though AM cortisol is wnl. 
She was started on midodrine. 

# H. Pylori: Diagnosed last admission. Continue triple 
therapy(with H2RA) through ___.

# HBV/HIV: Continue home dolutregravir and Truvada. 
# History of PE: Cont home lovenox 

TRANSITIONAL ISSUES:
[ ] Patient will need close follow up for pain management
[ ] Patient hypotensive during admission but asymptomatic, 
started on midodrine. Evaluate need for continuation of 
midodrine. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Morphine SR (MS ___ 15 mg PO QHS 
2. Ondansetron 4 mg PO Q8H:PRN nausea 
3. Amoxicillin 1000 mg PO Q12H 
4. Clarithromycin 500 mg PO Q12H 
5. Ranitidine 150 mg PO BID 
6. Omeprazole 40 mg PO BID 
7. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

8. Polyethylene Glycol 17 g PO BID 
9. Docusate Sodium 100 mg PO BID 
10. Dolutegravir 50 mg PO DAILY 
11. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
12. Enoxaparin Sodium 70 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
13. LORazepam 0.5 mg PO DAILY:PRN anxiety 
14. Megestrol Acetate 400 mg PO DAILY 
15. Prochlorperazine 10 mg PO Q6H:PRN nausea 
16. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
17. Acetaminophen 1000 mg PO Q8H 
18. Bisacodyl 10 mg PO DAILY:PRN constipation 
19. Senna 8.6 mg PO BID constipation 

 
Discharge Medications:
1.  Gabapentin 300 mg PO QHS 
RX *gabapentin 300 mg 1 capsule(s) by mouth Nightly Disp #*30 
Capsule Refills:*0 
2.  Midodrine 5 mg PO Q8H 
RX *midodrine 5 mg 1 tablet(s) by mouth Every 8 hours Disp #*90 
Tablet Refills:*0 
3.  Enoxaparin Sodium 60 mg SC Q12H 
RX *enoxaparin 60 mg/0.6 mL 60 mg tsice daily Disp #*60 Syringe 
Refills:*0 
4.  Morphine SR (MS ___ 30 mg PO Q8H 
RX *morphine [MS ___ 30 mg 1 tablet(s) by mouth Every eight 
hours Disp #*30 Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) ___ mg PO Q3H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth Every 3 hours Disp 
#*30 Tablet Refills:*0 
6.  Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 17g 
powder(s) by mouth daily as needed Refills:*0 
7.  Acetaminophen 1000 mg PO Q8H  
8.  Bisacodyl 10 mg PO DAILY:PRN constipation  
9.  Docusate Sodium 100 mg PO BID  
10.  Dolutegravir 50 mg PO DAILY  
11.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
12.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
13.  Megestrol Acetate 400 mg PO DAILY  
14.  Omeprazole 40 mg PO BID  
15.  Ondansetron 4 mg PO Q8H:PRN nausea  
16.  Prochlorperazine 10 mg PO Q6H:PRN nausea  
17.  Ranitidine 150 mg PO BID  
18.  Senna 8.6 mg PO BID constipation  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pleuritic Chest Pain
Acute on Chronic Hip, Back, and Leg Pain
Neuroendocrine Tumor
Pulmonary Embolism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to the hospital because ___ experienced sudden 
onset chest pain.  ___ were evaluated for a variety of causes 
including pulmonary embolism problems with your heart and lungs, 
but these tests were negative and we believe your pain symptoms 
were due to a muscle strain along the ribs.  ___ were treated 
with pain medications and anti-inflammatories and your symptoms 
improved.

Additionally, ___ were experiencing worsening of your chronic 
hip and leg pain.  An MRI of the area showed that this was 
likely due to your cancer and ___ underwent your regular 
scheduled chemotherapy. We increased the amount of pain 
medication ___ were taking with the help of your palliative care 
team. 

Please take all medications as prescribed and keep all scheduled 
doctor's appointments. Seek medical attention if ___ develop a 
worsening or recurrence of the same symptoms that originally 
brought ___ to the hospital, experience any of the warning signs 
listed below, or have any other symptoms that concern ___.

It was a pleasure taking care of ___!

Your ___ Care Team

 
Followup Instructions:
___